US06083961
To a solution of N-acetyl-3-benzyloxy-N-ethyl-2-nitroaniline (1.37 g) in acetic acid (11 ml) and ethanol (2.7 ml) was added iron (2.43 g), and the mixture was refluxed for 4 hours. Insoluble material was filtered off, and the filtrate was concentrated in vacuo. To the residue was added saturated sodium bicarbonate solution, and extracted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate solution, water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel flash chromatography (hexane-ethyl acetate) to give 4-benzyloxy-1-ethyl-2-methyl-1H-benzimidazole (397 mg).

reactant | N-acetyl-3-benzyloxy-N-ethyl-2-nitroaniline | 1.37 g | C(C)(=O)N(C1=C(C(=CC=C1)OCC1=CC=CC=C1)[N+](=O)[O-])CC | C17H18N2O4
solvent | acetic acid | 11 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 2.7 ml | C(C)O | C2H6O
catalyst | iron | 2.43 g | [Fe] | Fe
product | 4-benzyloxy-1-ethyl-2-methyl-1H-benzimidazole | 397 mg | C(C1=CC=CC=C1)OC1=CC=CC=2N(C(=NC21)C)CC | C17H18N2O
